US08247430B2
1-(1-methyl-4-piperidyl)indoline-6-ylamine
1-(1-Methyl(4-piperidyl))-6-nitroindoline (3 g) was dissolved in 100 mL MeOH and the mixture was bubbled with H2 for 10 min. 10% Pd/C (200 mg) was added and the mixture was stirred under H2 overnight. The mixture was filtered through Celite® and concentrated in vacuo to afford light yellow oil. MS: 232 (M+1). Calc'd. for C14H21N3—231.3.

reactant | 1-(1-Methyl(4-piperidyl))-6-nitroindoline | 3 g | CN1CCC(CC1)N1CCC2=CC=C(C=C12)[N+](=O)[O-] | C14H19N3O2
solvent | MeOH | 100 mL | CO | CH4O
product | 1-(1-methyl-4-piperidyl)indoline-6-ylamine | CN1CCC(CC1)N1CCC2=CC=C(C=C12)N | C14H21N3
